US04754081
Following the same procedure, at 30° C. for 3 hours using 22.8 grams (0.10 mole) of bisphenol A and 100 grams (5 moles) of hydrogen fluoride, a mixture containing 5.1 gms of phenol, 7.7 gms of bisphenol A and 8.5 gms of p-isopropenylphenol (monomer, dimers and oligomers) was obtained.

reactant | bisphenol A | 0.10 mole, 22.8 grams | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | hydrogen fluoride | 5 moles, 100 grams | F | FH
reactant | phenol | 5.1 gms | C1(=CC=CC=C1)O | C6H6O
reactant | bisphenol A | 7.7 gms | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
product | p-isopropenylphenol | 8.5 gms | C(=C)(C)C1=CC=C(C=C1)O | C9H10O
